US06387893B1
Step 1: Thioxanthene (29)
Thioxanthen-9-one, 28 (14.0 g, 66.0 mmol) was dissolved in THF (186 mL). While under argon, the solution was treated dropwise with 1.0M borane in THF (50 mL, 50.0 mmol) and refluxed (3 hrs). The reaction mixture was cooled, poured into ice (300 g) and extracted with ethyl acetate (3×350 mL). The extracts were combined, washed with brine (1×), dried over Na2SO4, filtered and concentrated to dryness in vacuo. Treatment of the resulting oil with methanol gave the title compound as a white solid.

reactant | Thioxanthen-9-one | C1=CC=CC=2SC3=CC=CC=C3C(C12)=O | C13H8OS
reactant | borane | 1.0M | B | BH3
solvent | THF | 186 mL | C1CCOC1 | C4H8O
solvent | THF | 50.0 mmol, 50 mL | C1CCOC1 | C4H8O
product | Thioxanthene | C1=CC=CC=2SC3=CC=CC=C3CC12 | C13H10S
